US04661512
(2) benzyl N-acetyl-(L)-pyroglutamate
A solution of 61.3 g (280 mmol) of benzyl (L)-pyroglutamate in 400 ml of benzene is added over 2 hours to a suspension of 13.4 g of NaH (280 mmol) in 50 ml of dry benzene. After stirring for one hour at ordinary temperature, a solution of 22.7 g (290 mmol) of acetyl chloride in 150 ml of benzene is run in and the mixture is heated at 55° for 5 hours and then stirred for 24 hours at ordinary temperature, washed with 2×150 ml of water, dried and evaporated. The product is distilled under reduced pressure; boiling point=150°-60° C. (0.25 mm Hg). This gives 60% of a pure product of Rf=0.63 (A).

reactant | benzyl (L)-pyroglutamate | 280 mmol, 61.3 g | N1[C@@H](CCC1=O)C(=O)OCC1=CC=CC=C1 | C12H13NO3
reactant | NaH | 280 mmol, 13.4 g | [H-].[Na+]
reactant | acetyl chloride | 290 mmol, 22.7 g | C(C)(=O)Cl | C2H3ClO
solvent | benzene | 400 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | benzyl N-acetyl-(L)-pyroglutamate | C(C)(=O)N1[C@@H](CCC1=O)C(=O)OCC1=CC=CC=C1 | C14H15NO4
